US07820665B2
A 50 mL round-bottomed flask was charged with 5-bromo-2-chloropyridin-3-amine (0.863 g, 4.2 mmol) and pyridine (5 mL). To this solution, DMAP (0.13 g, 1.0 mmol) and morpholine (0.36 mL, 4.2 mmol) were added in. The mixture was chilled to −40° C. in a dry ice/acetone bath. Then sulfuryl chloride (0.36 mL, 4.6 mmol) was added dropwise into the mixture while stirring. After the addition, the ice bath was removed and the mixture was allowed to stir under inert atmosphere at 25° C. for 15 h. The mixture was diluted with aqueous sodium bicarbonate and extracted by DCM (3×). The combined organic was dried over sodium sulfate and concentrated in vacuo. Purification by silica gel chromatography (1 to 50% EtOAc/DCM) gave N-(5-bromo-2-chloropyridin-3-yl)morpholine-4-sulfonamide (0.55 g, 37% yield) as a tan crystalline solid. MS (ESI positive ion) m/z: 358 (M+1). 1H NMR (400 MHz, DMSO-d6): δ ppm 3.07-3.12 (m, 4H), 3.58-3.62 (m, 4H), 8.07 (d, J=2.15 Hz, 1H), 8.42 (d, J=2.35 Hz, 1H), 10.19 (s, 1H).

reactant | 5-bromo-2-chloropyridin-3-amine | 4.2 mmol, 0.863 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | morpholine | 4.2 mmol, 0.36 mL | N1CCOCC1 | C4H9NO
reactant | sulfuryl chloride | 4.6 mmol, 0.36 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
catalyst | DMAP | 1.0 mmol, 0.13 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-2-chloropyridin-3-yl)morpholine-4-sulfonamide | 0.55 g, 37% yield | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)N1CCOCC1 | C9H11BrClN3O3S
